US07888344B2
Morpholine-4-carbothioamide
To a stirred solution of 1,1′-thiocarbonyldiimidazole (10.0 g, 56.1 mmol) in THF (150 mL) was added morpholine (4.24 g, 4.2 mL, 48.7 mmol). The reaction was stirred for 72 h at r.t. and then concentrated in vacuo to 30 mL. Ammonia (60 mL, 2.0M in MeOH) was added to the reaction mixture, which was then stirred at r.t. in a sealed flask overnight. The reaction mixture was filtered and the solid washed with Et2O to give the title compound (2.0 g, 28%) as a white solid. δH (DMSO-d6) 7.46 (2H, bs), 3.80-3.60 (4H, m), 3.60-3.50 (4H, m).

reactant | 1,1′-thiocarbonyldiimidazole | 56.1 mmol, 10.0 g | C(=S)(N1C=NC=C1)N1C=NC=C1 | C7H6N4S
reactant | morpholine | 48.7 mmol, 4.2 mL, 4.24 g | N1CCOCC1 | C4H9NO
solvent | THF | 150 mL | C1CCOC1 | C4H8O
product | Morpholine-4-carbothioamide | 2.0 g, 28% | N1(CCOCC1)C(N)=S | C5H10N2OS
